US08895580B2
Step 3: Preparation of 2-fluorophenyl-5-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one
(4Z)-4-[(Dimethylamino)methylidene]-2,5-bis(2-fluorophenyl)-2,4-dihydro-3H-pyrazol-3-one (241 mg, 0.735 mmol) and 1-[4-(1H-pyrazol-1-yl)phenyl]methanamine (127 mg, 0.735 mmol, 1 equiv) were combined in dimethylsulfoxide (10 mL) and placed into a preheated oil bath at 100° C. for 1.5 hours. To the mixture was added potassium carbonate (102 mg, 0.735 mmol, 1 equiv) and the mixture was heated for an additional 1 hour at 140° C. Additional 1-[4-(1H-pyrazol-1-yl)phenyl]methanamine (127 mg, 0.735 mmol, 1 equiv) and potassium carbonate (102 mg, 0.735 mmol, 1 equiv) were added and the mixture was heated for an additional 1 hour at 140° C. The mixture was cooled to ambient temperature, poured into water (75 mL) and extracted with ethyl acetate (2×75 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 95:5; dichloromethane:methanol; then 100:0 to 0:100; hexanes:ethyl acetate), providing the titled compound: 1H-NMR (500 MHz, d6-DMSO) δ 9.16 (1H, s), 8.46 (1H, d, J=2.4 Hz), 8.20 (1H, dd, J=7.8, 1.4 Hz), 7.82 (2H, d, J=8.7 Hz), 7.77 (1H, d, J=8.7 Hz), 7.72 (1H, d, J=14.6 Hz), 7.64-7.59 (2H, m), 7.55-7.52 (1H, m), 7.47 (2H, d, J=8.4 Hz), 7.47-7.38 (2H, m), 7.36-7.32 (1H, m), 6.53 (1H, dd, J=2.4, 1.7 Hz), 5.78 (2H, s) ppm; high resolution mass spectrometry (ES+) m/z 436.1560 [(M+H)+; calculated for C26H19FN5O: 436.1568].

reactant | (4Z)-4-[(Dimethylamino)methylidene]-2,5-bis(2-fluorophenyl)-2,4-dihydro-3H-pyrazol-3-one | 0.735 mmol, 241 mg | CN(C)\C=C\1/C(N(N=C1C1=C(C=CC=C1)F)C1=C(C=CC=C1)F)=O | C18H15F2N3O
reactant | 1-[4-(1H-pyrazol-1-yl)phenyl]methanamine | 0.735 mmol, 127 mg, 1 equiv | N1(N=CC=C1)C1=CC=C(C=C1)CN | C10H11N3
reactant | potassium carbonate | 0.735 mmol, 102 mg, 1 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 1-[4-(1H-pyrazol-1-yl)phenyl]methanamine | 0.735 mmol, 127 mg, 1 equiv | N1(N=CC=C1)C1=CC=C(C=C1)CN | C10H11N3
reactant | potassium carbonate | 0.735 mmol, 102 mg, 1 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | water | 75 mL | O | H2O
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 2-fluorophenyl-5-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | FC1=C(C=CC=C1)N1N=C2C(=CN(C=3C=CC=CC23)CC2=CC=C(C=C2)N2N=CC=C2)C1=O | C26H18FN5O
